US05623072
Ethyl propiolate (3.43 g, 0.035 mole) was stirred under N2 in methylene chloride (300 mL) at RT while morpholine (3.05 g, 0.035 mole) was added dropwise over 15 min. The mixture was then refluxed for 30 min. and then cooled to room temperature (RT). Diisopropylethylamine (5.65 g, 0.0437 mole) was then added to the mixture followed by the addition of [2,2-dichloro-1-[3-(trifluoromethyl)phenyl]ethylidene]hydrazinecarboxylic acid ethyl ester (10 g, 0.029 mole) which was added dropwise as a solution in methylene chloride (60 mL) over 30 min. The mixture was then refluxed for 18 h, cooled, and partitioned 2 times with water. The organic layer was dried (MgSO4), filtered and evaporated in vacuo to give a crude solid. This solid was recrystallized from cyclohexane/ethyl acetate to give 6-(4-morpholinyl)-3-[3-(trifluoromethyl)phenyl]-1,5(6H)-pyridazindicarboxylic acid diethyl ester (7.26 g, 55% yield) as a yellow solid, mp=128°-129° C.

reactant | Ethyl propiolate | 0.035 mole, 3.43 g | C(C#C)(=O)OCC | C5H6O2
reactant | morpholine | 0.035 mole, 3.05 g | N1CCOCC1 | C4H9NO
reactant | Diisopropylethylamine | 0.0437 mole, 5.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | [2,2-dichloro-1-[3-(trifluoromethyl)phenyl]ethylidene]hydrazinecarboxylic acid ethyl ester | 0.029 mole, 10 g | C(C)OC(=O)NN=C(C(Cl)Cl)C1=CC(=CC=C1)C(F)(F)F | C12H11Cl2F3N2O2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-morpholinyl)-3-[3-(trifluoromethyl)phenyl]-1,5(6H)-pyridazindicarboxylic acid diethyl ester | 7.26 g, 55% yield | C(C)OC(=O)N1N=C(C=C(C1N1CCOCC1)C(=O)OCC)C1=CC(=CC=C1)C(F)(F)F | C21H24F3N3O5
